* Package model for VDD_XLV
* 27 voltage sources

* Voltage source for VDD_XLV
v_VDD_XLV VDD_XLV_vsrc 0 VDD_XLV

* Bump connections (vsrc to die)
r VDD_XLV_vsrc VDD_XLV_tap_00000 0.001
r VDD_XLV_tap_00000 1094400_1123200_M13 0.001
r VDD_XLV_vsrc VDD_XLV_tap_00001 0.001
r VDD_XLV_tap_00001 1094400_1555200_M13 0.001
r VDD_XLV_vsrc VDD_XLV_tap_00002 0.001
r VDD_XLV_tap_00002 1094400_1987200_M13 0.001
r VDD_XLV_vsrc VDD_XLV_tap_00003 0.001
r VDD_XLV_tap_00003 1094400_2419200_M13 0.001
r VDD_XLV_vsrc VDD_XLV_tap_00004 0.001
r VDD_XLV_tap_00004 1231200_1468800_M13 0.001
r VDD_XLV_vsrc VDD_XLV_tap_00005 0.001
r VDD_XLV_tap_00005 1231200_1900800_M13 0.001
r VDD_XLV_vsrc VDD_XLV_tap_00006 0.001
r VDD_XLV_tap_00006 1231200_2332800_M13 0.001
r VDD_XLV_vsrc VDD_XLV_tap_00007 0.001
r VDD_XLV_tap_00007 1368000_1382400_M13 0.001
r VDD_XLV_vsrc VDD_XLV_tap_00008 0.001
r VDD_XLV_tap_00008 1368000_1814400_M13 0.001
r VDD_XLV_vsrc VDD_XLV_tap_00009 0.001
r VDD_XLV_tap_00009 1368000_2246400_M13 0.001
r VDD_XLV_vsrc VDD_XLV_tap_00010 0.001
r VDD_XLV_tap_00010 1504800_1296000_M13 0.001
r VDD_XLV_vsrc VDD_XLV_tap_00011 0.001
r VDD_XLV_tap_00011 1504800_1728000_M13 0.001
r VDD_XLV_vsrc VDD_XLV_tap_00012 0.001
r VDD_XLV_tap_00012 1504800_2160000_M13 0.001
r VDD_XLV_vsrc VDD_XLV_tap_00013 0.001
r VDD_XLV_tap_00013 1641600_1209600_M13 0.001
r VDD_XLV_vsrc VDD_XLV_tap_00014 0.001
r VDD_XLV_tap_00014 1641600_1641600_M13 0.001
r VDD_XLV_vsrc VDD_XLV_tap_00015 0.001
r VDD_XLV_tap_00015 1641600_2073600_M13 0.001
r VDD_XLV_vsrc VDD_XLV_tap_00016 0.001
r VDD_XLV_tap_00016 1778400_1123200_M13 0.001
r VDD_XLV_vsrc VDD_XLV_tap_00017 0.001
r VDD_XLV_tap_00017 1778400_1555200_M13 0.001
r VDD_XLV_vsrc VDD_XLV_tap_00018 0.001
r VDD_XLV_tap_00018 1778400_1987200_M13 0.001
r VDD_XLV_vsrc VDD_XLV_tap_00019 0.001
r VDD_XLV_tap_00019 1778400_2419200_M13 0.001
r VDD_XLV_vsrc VDD_XLV_tap_00020 0.001
r VDD_XLV_tap_00020 1915200_1468800_M13 0.001
r VDD_XLV_vsrc VDD_XLV_tap_00021 0.001
r VDD_XLV_tap_00021 1915200_1900800_M13 0.001
r VDD_XLV_vsrc VDD_XLV_tap_00022 0.001
r VDD_XLV_tap_00022 1915200_2332800_M13 0.001
r VDD_XLV_vsrc VDD_XLV_tap_00023 0.001
r VDD_XLV_tap_00023 2052000_1382400_M13 0.001
r VDD_XLV_vsrc VDD_XLV_tap_00024 0.001
r VDD_XLV_tap_00024 2052000_1814400_M13 0.001
r VDD_XLV_vsrc VDD_XLV_tap_00025 0.001
r VDD_XLV_tap_00025 2052000_2246400_M13 0.001
r VDD_XLV_vsrc VDD_XLV_tap_00026 0.001
r VDD_XLV_tap_00026 2188800_1296000_M13 0.001
